Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain 
 
Major Surgical or Invasive Procedure:
laparoscopic appendectomy

 
History of Present Illness:
___ w/  obese (___ ___) presenting with abdominal pain since 
yesterday. She reports the onset of abdominal pain after 
breakfast yesterday.  Pain was initially in her epigastric 
region but is now located in her RUQ. She called urgent care 
last night and they told her to take 800 mg of ibuprofen, which 
helped her sleep, but she woke up this morning to the same pain. 
The pain
has been constant and associated with nausea. It is worse lying 
down and when she lifts her right leg. Denies vomiting or 
fevers. Had some chills overnight. Last meal was breakfast this 
morning. 

 
Past Medical History:
obesity (BMI 44), asthma, HTN, sleep apnea, ?RV dysfunction
(is scheduled for a cardiac MRI on ___

PSH - lap ___ (Signature ___, 2 C-sections,
umbilical hernia repair as a child

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Physical Exam-time of admission 
VS: 98, 73, 97/53, 16, 100% RA
Gen - NAD
Heart - RRR, no murmurs appreciated
Lungs - CTAB
Abdomen - obese, soft, TTP RUQ>RLQ, no rebound, no guarding
Extremities-no edema

Physical Exam-at discharge
Gen - NAD
Heart - RRR, no murmurs appreciated
Lungs - CTAB
Abdomen - obese, soft, appropriately TTP, incisions c/d/i, no 
rebound, no guarding
Extremities-no edema

 
Pertinent Results:
OPERATIVE REPORT
 
___.
Signed Electronically by ___ on SAT ___ 8:31 
AM
 
Name:  ___     Unit No:  ___

Service: General Surgery          Date:  ___

Date of Birth:  ___        Sex:  F

Surgeon:  ___, MD ___

PREOPERATIVE DIAGNOSIS:  Acute appendicitis.

POSTOPERATIVE DIAGNOSIS:  Acute appendicitis.

PROCEDURE:  Laparoscopic appendectomy.

ASSISTANT:  ___, MD.

ANESTHESIA:  General endotracheal anesthesia, with 30 cc of
0.5% Marcaine.

IV FLUIDS:  800 cc.

ESTIMATED BLOOD LOSS:  10 cc.

URINE OUTPUT:  No Foley was placed in the case.

INDICATIONS:  ___ is a very pleasant young woman, who had
a 24-hour history of abdominal pain localizing to the right
upper quadrant and flank.  She was evaluated in an outside
hospital emergency room, was found to have acute
appendicitis.  She had previously had her gallbladder
removed.  She was at a BMI of mid-40s.  She was transferred
for surgical care, given her morbid obesity.  Consent was
reviewed and signed for laparoscopic, possible open,
appendectomy.

PREPARATION:  The patient was given intravenous antibiotics,
subcutaneous heparin, taken to the operating room, and placed
in supine position.  Venodyne boots were placed and
activated.  The patient was then endotracheally intubated,
sterilely prepped and draped, and a time-out was performed to
confirm patient, procedure, and diagnosis.

PROCEDURE IN DETAIL:  Local anesthesia infused in the left
upper quadrant.  Incision was made with 15-blade scalpel.  A
Veress needle was passed in the abdominal cavity with a
positive drop test, and the abdomen was insufflated with
carbon dioxide gas.  Appropriate distention was achieved
after the pressure was raised to 17, rather than 15, given
her chronic abdominal hypertension.  The Optiview port was
then passed into the abdominal cavity through this incision,
after the Veress needle was removed under direct vision of a
5 mm lens.  The abdomen was entered directly, and this trocar
was placed in the abdominal cavity without injury to the
underlying bowel.  We explored the abdomen.  There were
adhesions to the anterior abdominal wall and an incarcerated
hernia in the lower abdomen.  The uterus was adherent to the
lower abdomen.  We then placed a 12 mm trocar in the left
side of the abdomen, in the lower abdomen.  We then took down
some of the adhesions with electrocautery.  We placed a 5 mm
port on the right side of the abdomen, as the appendix was in
the right upper quadrant.  Adhesions were taken down with
electrocautery and blunt dissection.  We then examined the
right side of the abdomen and identified the adherent
appendix.  The mesoappendiceal window was created, and a
linear cutting Endo ___ stapler was deployed across the base
of the appendix, and the appendix was divided from the cecum.
We then mobilized the mesoappendix with electrocautery by
dividing the peritoneum.  We then used a reload of the linear
cutting Endo ___ stapler and took the mesoappendix.  Then the
divided appendix from its attachments and mesentery and cecum
were then placed in an Endopouch.  There was some thickening
and inflammation, but there did not appear to be a rupture.
After placing the Endopouch, the suction irrigator system was
used to remove the fluid and clot around it.  We examined the
staple lines, and they were hemostatic.  We examined the
omentum that had been taken down.  There was no active
hemorrhage.  After appropriate exploring of the abdomen, we
removed the appendix through the 12 mm trocar site.  We re-
insufflated the abdomen and closed that port site at the
fascia with a 0 Vicryl suture with fascial closing device.
We then deflated the abdomen and removed the 5 mm trocars,
and closed all the incisions with ___ Monocryl subcuticular
suture.  Steri-Strips and sterile occlusive dressings were
placed over the wounds.  The patient was then extubated in
the operating room and transferred to the post anesthesia
care unit in stable condition.

SPECIMEN TO PATHOLOGY:  Acutely inflamed appendix.

FINDINGS:  Acute appendicitis and adhesions, and a ventral
and periumbilical hernia.

 
Brief Hospital Course:
Ms. ___ was transferred from ___ with acute 
appendicitis. The diagnosis was confirmed on arrival to the 
___ ED and the patient was taken to the Operating Room where 
she underwent an uncomplicated laparoscopic appendectomy. For 
full details of the procedure, please see the separately 
dictated operative report. She was extubated and returned to the 
PACU. After satisfactory recovery from anesthesia, she was 
transferred to the Surgical Floor. 

On POD1, she was tolerating a regular diet, ambulating 
independently, voiding spontaneously and her pain was well 
controlled with oral pain medications. She was discharged home 
on POD1 with instructions to follow up in clinic with Dr. ___. 
She voiced understanding of the discharge plan and expressed 
readiness for discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Ibuprofen 800 mg PO DAILY:PRN Pain - Mild 
3. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 capsule(s) by mouth every six hours 
Disp #*30 Capsule Refills:*0 
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ capsule(s) by mouth every four hours Disp 
#*40 Capsule Refills:*0 
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Ibuprofen 800 mg PO DAILY:PRN Pain - Mild  
5.  Losartan Potassium 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
acute appendicitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital for 
appendicitis and underwent a laparoscopic appendectomy. You have 
recovered and are now ready to be discharged to home. Please 
follow the recommendations below to ensure a speedy and 
uneventful recovery. 

ACTIVITY:

- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.

- You may climb stairs. 

- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.

- You may start some light exercise when you feel comfortable.

- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.

- You may resume sexual activity unless your doctor has told you 
otherwise.

HOW YOU MAY FEEL: 

- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.

- You may have a sore throat because of a tube that was in your 
throat during the endoscopy.

YOUR BOWELS:

- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.

- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.

- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluitds and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.

PAIN MANAGEMENT:

- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
If you experience any of the folloiwng, please contact your 
surgeon:

- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain

MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.
 
Followup Instructions:
___